US07115641B2
Preparation of Hydroxymethyl Oxazolidine/Iodopropynyl Butylcarbamate Biocidal Composition
A closed vessel is charged with 102 g of 1,3-dihydroxybutane and 62 g of prilled paraformaldehyde is added and mixed at room temperature until a uniform slurry is formed. The slurry is then heated to 60° C. and a 2% molar (or 1–5%) molar excess of tris(hydroxymethyl)aminomethane (THAM) is introduced. A total of 124 g of 99% pure tris(hydroxymethyl)aminomethane is gradually added in increasing increments until a 2% molar excess is obtained. The ensuing condensation reaction takes place over a period of 3 hours. During the reaction, soluble bicyclic hydroxymethyl oxazolidine is continuously formed. Since paraformaldehyde and tris(hydroxymethyl)-aminomethane are of low solubility in the reaction medium, completion of the reaction is indicated when a clear solution is formed with water by-product. When the mixture becomes clear, insuring that all of the formaldehyde has reacted, the resulting solution is allowed to cool to ambient temperature and 4.42 g of powdered IPBC (weight ratio of bicyclic hydroxymethyl oxazolidine HMBO to IPBC is 33:1) is added and stirred until a clear solution is obtained. No crystallization of IPBC is noted in the substantially colorless product and a pure clear, liquid composition containing less than 1000 ppm of formaldehyde is obtained.

reactant | 1,3-dihydroxybutane | 102 g | OCCC(C)O | C4H10O2
reactant | paraformaldehyde | 62 g | C=O | CH2O
reactant | tris(hydroxymethyl)aminomethane | C(C(CO)(CO)N)O | C4H11NO3
reactant | tris(hydroxymethyl)aminomethane | 124 g | C(C(CO)(CO)N)O | C4H11NO3
reactant | tris(hydroxymethyl)-aminomethane | OCC(N)(CO)CO | C4H11NO3
reactant | IPBC | 4.42 g | CCCCNC(=O)OCC#CI | C8H12INO2
solvent | water | O | H2O
product | Hydroxymethyl Oxazolidine Iodopropynyl Butylcarbamate | OCC1OCCN1.C(CCC)NC(OC#CCI)=O | InChI=1S/C8H12INO2.C4H9NO2/c1-2-3-6-10-8(11)12-7-4-5-9;6-3-4-5-1-2-7-4/h2-3,5-6H2,1H3,(H,10,11);4-6H,1-3H2
